US09278951B2
Synthesis of 3-(4-hydroxybenzyl)-1-methyl-imidazolium iodide
Imidazole (0.1 mol) and 4-hydroxybenzyl alcohol (0.1 mol) were combined and heated to 155° C. The crude product was washed with cold ethanol and recrystallized in an EtOH/DMF mixture. This powder (3-(4-hydroxybenzyl)imidazole, 2.20 mmol) was then was dissolved in DMF (3 mL). Iodomethane (3.21 mmol) was added to the reaction mixture and refluxed for 24 hours at 80° C. The solvent was evaporated and remaining oil was washed using ethyl ether to yield a brown precipitate. Yield: 0.573 g, 82.2%. Mp: 82.9-85.5° C. FTIR: (KBr, cm−1) u(Ar) 1327.37, 1378.80, 1459.39, 1506.20, 1587.78; u(OH) 2922.97. 1H NMR (300 MHz, DMSO-d6) 3.836 (3H, s, CH3N), 5.265 (2H, s, NCH2Ar), 6.796 (2H, d, NCHCHN), 7.275 (2H, d, NCAr), 7.729 (2H, d, HOAr), 9.122 (1H, s, OH), 9.627 (1H, s, NHN).

reactant | Imidazole | 0.1 mol | N1C=NC=C1 | C3H4N2
reactant | 4-hydroxybenzyl alcohol | 0.1 mol | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | Iodomethane | 3.21 mmol | IC | CH3I
reactant | KBr | [K+].[Br-]
product | 3-(4-hydroxybenzyl)-1-methyl-imidazolium iodide | [I-].OC1=CC=C(CN2C=[N+](C=C2)C)C=C1 | InChI=1S/C11H12N2O.HI/c1-12-6-7-13(9-12)8-10-2-4-11(14)5-3-10;/h2-7,9H,8H2,1H3;1H
